US07846956B2
1.35 g of (5-t-butyl-isoxazol-3-yl)methanol was dissolved in 50 ml of 1,4-dioxane, and 6.42 g of manganese dioxide was then added. The mixture was stirred and heated under reflux for 10 hours. The reaction mixture was cooled to room temperature and then filtered through Celite®. The filtrate was concentrated under reduced pressure to obtain 1.29 g of 5-t-butyl-isoxazole-3-carbaldehyde.

reactant | (5-t-butyl-isoxazol-3-yl)methanol | 1.35 g | C(C)(C)(C)C1=CC(=NO1)CO | C8H13NO2
solvent | 1,4-dioxane | 50 ml | O1CCOCC1 | C4H8O2
catalyst | manganese dioxide | 6.42 g | [O-2].[O-2].[Mn+4]
product | 5-t-butyl-isoxazole-3-carbaldehyde | 1.29 g | C(C)(C)(C)C1=CC(=NO1)C=O | C8H11NO2
